US07820715B2
Under an argon atmosphere, the compound (100 g) produced in Reference Example 3 was dissolved in acetic acid (230 mL) at about 40° C. (inner temperature). A solution of methanesulfonic acid (130 g) in water (182 mL) was added to the above solution, then stirred at about 105-112° C. (inner temperature) for about 13 hours, and cooled to about 28° C. (inner temperature). Then, water (400 mL) and a mixture of n-heptane: isopropyl acetate (5:1) (500 mL) were added and the mixture was extracted. The organic layer was washed twice with water (400 mL) and concentrated to give (2R)-2-propyloctanoic acid having the following physicochemical properties (103 g, 99.3% e.e.).

reactant | methanesulfonic acid | 130 g | CS(=O)(=O)O | CH4O3S
reactant | n-heptane isopropyl acetate | 500 mL | CCCCCCC.C(C)(=O)OC(C)C
reactant | acetic acid | 230 mL | C(C)(=O)O | C2H4O2
solvent | water | 182 mL | O | H2O
solvent | water | 400 mL | O | H2O
product | (2R)-2-propyloctanoic acid | C(CC)[C@@H](C(=O)O)CCCCCC | C11H22O2
